US06852749B1
Zinc powder (10.0 g; 0.15 mol) was added to a stirred mixture of 4-methoxyazobenzene (4.24 g; 20.0 mmol) in 96% ethanol (75 ml) and saturated NH4Cl solution (2.0 ml) at 0° C. (bath temperature). Two more portions of saturated NH4Cl solution (2.0 ml) were added at 1.5 h intervals. The yellowish solution was poured into cold water (100 ml) and filtered. The residue was extracted with methylene chloride (5×50 ml). The combined aqueous phases were extracted with methylene chloride (3×25 ml). The combined organic solutions were,dried (Na2SO4), filtered and evaporated to give 4.3 g crude 1-(4-methoxyphenyl)-2-phenylhydrazine as a reddish oil.

reactant | 4-methoxyazobenzene | 20.0 mmol, 4.24 g | COC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C13H12N2O
reactant | water | 100 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | NH4Cl | 2.0 ml | [NH4+].[Cl-]
catalyst | Zinc | 0.15 mol, 10.0 g | [Zn] | Zn
solvent | NH4Cl | 2.0 ml | [NH4+].[Cl-]
product | 1-(4-methoxyphenyl)-2-phenylhydrazine | 4.3 g | COC1=CC=C(C=C1)NNC1=CC=CC=C1 | C13H14N2O
